US06479487B1
1-(4-Benzyloxybutyl)-4-piperidone is prepared from 4-piperidone and 1-chloro-4-benzyloxybutane essentially as described above in Example 38, Scheme C, step a.

reactant | 4-piperidone | N1CCC(CC1)=O | C5H9NO
reactant | 1-chloro-4-benzyloxybutane | ClCCCCOCC1=CC=CC=C1 | C11H15ClO
product | 1-(4-Benzyloxybutyl)-4-piperidone | C(C1=CC=CC=C1)OCCCCN1CCC(CC1)=O | C16H23NO2
